US05162316
4-Oxo 2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine
A mixture of 7-hydrazino-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine (0.40 g) and silver oxide (0.32 g) in methanol (40 ml) was stirred at ambient temperature for 18 hours and at 45°-50° C. for 24 hours. The cooled reaction mixture was evaporated under reduced pressure and the residue was eluted from a silica column with chloroform. The combined fractions containing product were evaporated under reduced pressure to yield a white solid which together with another sample (27 mg), similarly prepared, was recrystallised from 2-propanol to yield the title compound, 136 mg, m.p. 142°-143° C.

reactant | 7-hydrazino-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine | 0.40 g | N(N)C1=NC=C2C(=N1)N=C(NC2=O)C2=C(C=CC=C2)OCCC | C15H16N6O2
solvent | methanol | 40 ml | CO | CH4O
catalyst | silver oxide | 0.32 g | [Ag]=O
product | 4-Oxo 2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine | O=C1NC(=NC2=NC=NC=C21)C2=C(C=CC=C2)OCCC | C15H14N4O2
